US08802690B2
To a mixture of 4-amino-5-methyl-benzonitrile (3.0 g, 18.0 mmol) in chloroform (50 mL) was added acetic anhydride (3.92 mL, 41.4 mmol). The mixture was heated at reflux for 5 hours and then cooled to room temperature. To the mixture was added potassium acetate (530 mg, 5.4 mmol) and isoamyl nitrite (5.28 mL, 39.6 mmol). The reaction was heated at reflux for 16 hours. The reaction mixture was coded to room temperature, extracted with saturated aqueous sodium bicarbonate, the organics were dried over sodium sulfate, and concentrated in vacuo to afford a brown oil. The oil was dissolved in methanol (25 mL) and concentrated hydrochloric acid (25 mL) was added. The reaction was stirred at room temperature for 22 hours and the methanol was concentrated in vacuo. The remaining aqueous layer was adjusted to a pH of 7 and the resultant precipitate was filtered to afford a brown solid which was purified by flash chromatography using 50% dichloromethane in heptane as eluent to afford 7-chloro-1H-indazole-5-carbonitrile as a solid (585 mg, 18%): −ESI MS (M−1) 176.0; 1H NMR (400 MHz, CDC3) 5 ppm 8.29 (br. s., 2H), 8.08 (s, 1H), 7.61 (s, 1H).

reactant | 4-amino-5-methyl-benzonitrile | 18.0 mmol, 3.0 g | NC1=CC=C(C#N)C=C1C | C8H8N2
reactant | acetic anhydride | 41.4 mmol, 3.92 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium acetate | 5.4 mmol, 530 mg | C(C)(=O)[O-].[K+]
reactant | isoamyl nitrite | 39.6 mmol, 5.28 mL | N(=O)OCCC(C)C | C5H11NO2
reactant | hydrochloric acid | 25 mL | Cl | ClH
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 25 mL | CO | CH4O
product | 7-chloro-1H-indazole-5-carbonitrile | 585 mg, 18% | ClC=1C=C(C=C2C=NNC12)C#N | C8H4ClN3
